US04636523
Under a dry argon atmosphere a stirred mixture of 18.8 g (0.047 mole) 4-(2-bromo-1,1,2,2-tetrafluoroethylthio)-3,5-dichloronitrobenzene, 14.8 g (0.23 mole) cooper powder, and 7.3 g (0.0478 mole) 2,2'-dipyridyl in 300 ml of dimethyl sulfoxide was heated at 150° C. for 15 minutes. The mixture was cooled and poured into a separatory funnel containing approximately 100 g of 2N hydrochloric acid. The aqueous mixture was extracted with three 150 ml portions of diethyl ether and the extracts were combined. The extract was washed in succession with two 100 ml portions of 2N hydrochloric acid, two 100 ml portions of a saturated aqueous sodium chloride solution, two 100 ml portions of 2N sodium hydroxide, and 100 ml of 2N hydrochloric acid. The washed organic solution was dried over anhydrous magnesium sulfate and filtered. The filtrate was evaporated under reduced pressure to leave an oil. This oil was subjected to column chromatography on silica gel, elution with n-heptane:toluene (90:10), to provide a solid after evaporation of the appropriate fractions. This solid was recrystallized from n-heptane to yield 7.5 g 7-chloro-2,2,3,3-tetrafluoro-2,3-dihydro-5-nitrobenzothiophene (mp 61.5°-62° C.).

reactant | 4-(2-bromo-1,1,2,2-tetrafluoroethylthio)-3,5-dichloronitrobenzene | 0.047 mole, 18.8 g | BrC(C(SC1=C(C=C(C=C1Cl)[N+](=O)[O-])Cl)(F)F)(F)F | C8H2BrCl2F4NO2S
reactant | hydrochloric acid | 2N, approximately 100 g | Cl | ClH
solvent | dimethyl sulfoxide | 300 ml | CS(=O)C | C2H6OS
product | 7-chloro-2,2,3,3-tetrafluoro-2,3-dihydro-5-nitrobenzothiophene | 7.5 g | ClC1=CC(=CC=2C(C(SC21)(F)F)(F)F)[N+](=O)[O-] | C8H2ClF4NO2S
